US07507729B2
b) (5-Methyl-isoxazol-3-yl)-acetic acid hydrazide
As described for example 112a, (5-methyl-isoxazol-3-yl)-acetic acid methyl ester in butanol was reacted with hydrazine hydrate (2 equivalents) and the resulting mixture was heated under reflux for 90 min. Evaporation of all volatiles afforded the title compound as a white solid (yield: 90%). 1H-NMR (300 MHz, DMSO): δ=2.36 (d, J=0.7 Hz, 3H), 3.39 (s, 2H), 4.25 (s, 2H), 6.13 (d, J=0.7 Hz, 1H), 9.27 (s, 1H).

reactant | (5-methyl-isoxazol-3-yl)-acetic acid methyl ester | COC(CC1=NOC(=C1)C)=O | C7H9NO3
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | butanol | C(CCC)O | C4H10O
product | (5-Methyl-isoxazol-3-yl)-acetic acid hydrazide | yield: 90% | CC1=CC(=NO1)CC(=O)NN | C6H9N3O2
